US04788201
1-Acetyl-4-(2-amino-4-fluorophenoxy)-4-ethynylpiperidine hydrochloride
To a stirred solution of 3.14 g of 1-acetyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine and 42 ml of methanol was added a solution of 3 ml of concentrated hydrochloric acid in 12 ml water. To the stirred mixture in a water bath was added 6.1 g of iron (powdered electrolytic). The mixture was stirred for 1 hr, poured into ice, made basic by the addition of sodium carbonate solution, extracted twice with methylene chloride and washed with saturated sodium chloride solution. The mixture was dried over anhydrous potassium carbonate, filtered and the solvent evaporated to provide an oil. The oil was purified on a Waters Prep 500 High Pressure Liquid Chromatograph instrument, using a silica gel column and eluting with 2% methanol/dichloromethane. The appropriate fractions were evaporated and the residue was treated with ethereal hydrogen chloride to provide 0.57 g (17.7%) of product, mp 206°-208°, after recrystallization from ethanol/methanol.

reactant | 1-acetyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine | 3.14 g | C(C)(=O)N1CCC(CC1)(OC1=C(C=C(C=C1)F)[N+](=O)[O-])C#C | C15H15FN2O4
reactant | methanol | 42 ml | CO | CH4O
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 12 ml | O | H2O
catalyst | iron | 6.1 g | [Fe] | Fe
product | 1-Acetyl-4-(2-amino-4-fluorophenoxy)-4-ethynylpiperidine hydrochloride | 0.57 g, 17.7% | Cl.C(C)(=O)N1CCC(CC1)(C#C)OC1=C(C=C(C=C1)F)N | InChI=1S/C15H17FN2O2.ClH/c1-3-15(6-8-18(9-7-15)11(2)19)20-14-5-4-12(16)10-13(14)17;/h1,4-5,10H,6-9,17H2,2H3;1H
